US08293781B2
1-bromo-4-[(difluoromethoxy)methyl]benzene
To a solution of 4-bromobenzyl alcohol (5.6 g) in acetonitrile (15 ml), sodium sulfate (0.28 g) was added. While warmed to 45° C., 2,2-difluoro-2-(fluorosulfonyl)acetic acid (1.78 g) was slowly dropwise added, and the mixture was heated and refluxed at 45° C. for 4 hours. The reaction solution was poured into water, the mixture was extracted with diethyl ether and the organic layer was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off in vacuo and the residue obtained was purified with silica gel column chromatography (hexane:ethyl acetate=19:1 to 17:3) to afford the above-identified compound (0.88 g).

reactant | 4-bromobenzyl alcohol | 5.6 g | BrC1=CC=C(CO)C=C1 | C7H7BrO
reactant | sodium sulfate | 0.28 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | 2,2-difluoro-2-(fluorosulfonyl)acetic acid | 1.78 g | FC(C(=O)O)(S(=O)(=O)F)F | C2HF3O4S
reactant | water | O | H2O
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 1-bromo-4-[(difluoromethoxy)methyl]benzene | 0.88 g | BrC1=CC=C(C=C1)COC(F)F | C8H7BrF2O
